US09447084B2
N-(2-chloroethyl)-2,2,2-trifluoroacetamide
Into a 1000-mL round-bottom flask, was placed a solution of 2-chloroethan-1-amine hydrochloride (15 g, 129.32 mmol, 1.00 equiv) in dichloromethane (500 mL). This was followed by the addition of triethylamine (19.5 g, 192.71 mmol, 1.49 equiv) dropwise with stirring. To this was added TFAA (32.6 g, 155.22 mmol, 1.20 equiv) dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 200 mL of 1M HCl. The resulting solution was extracted with 100 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 20 g (crude) of N-(2-chloroethyl)-2,2,2-trifluoroacetamide as a off-white solid. (ES, m/z): 177 [M+H]+

reactant | 2-chloroethan-1-amine hydrochloride | 129.32 mmol, 15 g, 1.00 equiv | Cl.ClCCN
reactant | triethylamine | 192.71 mmol, 19.5 g, 1.49 equiv | C(C)N(CC)CC | C6H15N
reactant | TFAA | 155.22 mmol, 32.6 g, 1.20 equiv | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-(2-chloroethyl)-2,2,2-trifluoroacetamide | ClCCNC(C(F)(F)F)=O | C4H5ClF3NO
